US03994958
After the flask is weighed (total weight yield); 201 g.), 183.6 g. of the reaction mixture are stripped under reduced pressure (up to about 150° C. at 0.5-mm. Hg.) to give 96.2 g. of oligomer which corresponds to a weight yield of 52.4%. Analysis of the unstripped reaction mix by vapor phase chromatography and titration of the stripped oligomer using a standard perchloric acid solution in acetic acid gives the following final composition: Lauryl acrylate: tetradecene-1: BAEM 70.3:25.2:4.5 by weight. Kjeldahl nitrogen analysis gives a value of 0.39% N corresponding to 5.5% by weight of BAEM in the oligomer. Elemental analysis:

reactant | perchloric acid | Cl(=O)(=O)(=O)O | ClHO4
reactant | Lauryl acrylate tetradecene-1 BAEM | C(C=C)(=O)OCCCCCCCCCCCC.CCCCCCCCCCCCC=C.CC(C)(C)OC(=O)CO/N=C(\C1=CSC(=N1)N)/C(=O)SC2=NC3=CC=CC=C3S2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | BAEM | yield of 52.4% | CC(C)(C)OC(=O)CO/N=C(\C1=CSC(=N1)N)/C(=O)SC2=NC3=CC=CC=C3S2 | C18H18N4O4S3
